US06191266B1
Preparation of 1′-amino-thymidine
A suspension of 1′-amino-3′, 5′, 5-tris(methoxybenzyl) thymidine and 10% palladium on charcoal in ethanol is shaken in a hydrogenation apparatus under hydrogen pressure of 50 psi for 24 h. The solid is filtered and the filtrate concentrated. The crude is purified by recrystallization.

reactant | 1′-amino-3′, 5′, 5-tris(methoxybenzyl) thymidine | N[C@@]1(C[C@](O)([C@@H](C(O)C(C2=CC=CC=C2)OC)O1)C(C1=CC=CC=C1)OC)N1C(=O)NC(=O)C(C)(C1)C(C1=CC=CC=C1)OC | C34H41N3O8
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 1′-amino-thymidine | N[C@@]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H15N3O5
